US07872133B2
rac-(1R,3R)-1-(3-fluorophenyl)-3-methyl-2,3,4,9-tetrahydro-1H-β-carboline (trans-isomer)
In addition, the compounds in Example 15(5) and Example 15(6) were prepared by separating diastereomer mixture which was obtained by reacting [2-(1H-indol-3-yl)-1-methylethyl]amine with 3-fluorobenzaldehyde, by column chromatography on silica gel.

reactant | [2-(1H-indol-3-yl)-1-methylethyl]amine | N1C=C(C2=CC=CC=C12)CC(C)N | C11H14N2
reactant | 3-fluorobenzaldehyde | FC=1C=C(C=O)C=CC1 | C7H5FO
product | rac-(1R,3R)-1-(3-fluorophenyl)-3-methyl-2,3,4,9-tetrahydro-1H-β-carboline | FC=1C=C(C=CC1)C1NC(CC=2C3=CC=CC=C3NC12)C | C18H17FN2
